US08217168B2
Preparation 20: 6-phenyl-4-(benzoyl)-1,2,4-triazine-3,5(2H,4H)-dione (P20)
Benzoyl chloride (0.253 ml, 2.180 mmol) was added to a solution of 2-acetyl-6-phenyl-1,2,4-triazine-3,5(2H,4H)-dione (420 mg, 1.817 mmol) and pyridine (0.441 ml, 5.45 mmol) in 1,4-Dioxane (5 ml) at 5° C. Mixture was stirred at r.t. overnight. Solids were filtered off and rinsed with DCM, solvent was concentrated under reduced pressure. Residue was diluted in ethanol (20 ml), hydrochloric acid 37% in water (0.250 ml, 3.04 mmol) was added and mixture heated at 90° C. for 3 h. Solvent was concentrated and residue purified on biotage 25M silica cartridge, eluting with Cy/AcOEt 8:2 to AcOEt 100%, to give 87 mg of title compound (16% yield).

reactant | Benzoyl chloride | 2.180 mmol, 0.253 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-acetyl-6-phenyl-1,2,4-triazine-3,5(2H,4H)-dione | 1.817 mmol, 420 mg | C(C)(=O)N1N=C(C(NC1=O)=O)C1=CC=CC=C1 | C11H9N3O3
reactant | pyridine | 5.45 mmol, 0.441 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
reactant | water | 3.04 mmol, 0.250 ml | O | H2O
solvent | 1,4-Dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 6-phenyl-4-(benzoyl)-1,2,4-triazine-3,5(2H,4H)-dione | 87 mg, 16% yield | C1(=CC=CC=C1)C=1C(N(C(NN1)=O)C(C1=CC=CC=C1)=O)=O | C16H11N3O3
